US08530388B2
4′-Chloro-4-ethyl-3-nitrobiphenyl (22.6 g, 0.086 mol) is suspended in methanol (250 ml) and the reaction mixture is stirred at room temperature. Distilled water (100 ml) is added, followed by zinc dust (39.0 g, 0.60 mol) and ammonium chloride (13.8 g, 0.26 mol) and the mixture is heated to reflux for 1 hour. The reaction mixture is cooled to room temperature, filtered through diatomaceous earth and the filtrate is evaporated in vacuo to remove most of the methanol. The residue is partitioned between ethyl acetate (200 ml) and water and the aqueous phase is re-extracted with ethyl acetate (200 ml). The organic extracts are combined, washed with water and brine, dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated in vacuo to give 3-amino-4′-chloro-4-ethylbiphenyl (15.0 g) as a colourless solid. The product is used directly without further purification in Step 5.

reactant | 4′-Chloro-4-ethyl-3-nitrobiphenyl | 0.086 mol, 22.6 g | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)CC)[N+](=O)[O-] | C14H12ClNO2
reactant | water | 100 ml | O | H2O
reactant | ammonium chloride | 0.26 mol, 13.8 g | [Cl-].[NH4+]
solvent | methanol | 250 ml | CO | CH4O
catalyst | zinc | 0.60 mol, 39.0 g | [Zn] | Zn
product | 3-amino-4′-chloro-4-ethylbiphenyl | 15.0 g | NC=1C=C(C=CC1CC)C1=CC=C(C=C1)Cl | C14H14ClN
